US07691877B2
4-Amino-1-benzyl-6-cyclopropyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
4-Allylamino-1-Benzyl-6-cyclopropyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one (70 mg, 0.2 mmol) was dissolved in ethanol (2 mL) and 10% Pd—C (70 mg, w/w) was added followed by dropwise addition of BF3.OEt2 (27 □l, 0.2 mmol). The mixture was heated at reflux under N2 overnight. The mixture was allowed to cool to room temperature and filtered through arbocel, rinsing with fresh EtOH and the filtrate was concentrated in vacuo to give the crude (150 mg). Column chromatography through silica eluting with 98:2→95:5 DCM:MeOH gave the title compound (17 mg) as an off white solid.

reactant | 4-Allylamino-1-Benzyl-6-cyclopropyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 0.2 mmol, 70 mg | C(C=C)NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C2CC2 | C19H20N4O
reactant | BF3.OEt2 | 0.2 mmol | B(F)(F)F.CCOCC
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | MeOH | CO | CH4O
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd—C | 70 mg | [Pd] | Pd
product | 4-Amino-1-benzyl-6-cyclopropyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 17 mg | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C2CC2 | C16H16N4O
